US09284331B2
Step 10: 4-(6-fluoropyridin-3-yl)-5,6,9,10,12,12a-hexahydro-[1,4]diazepino[1,7-h][1,7]naphthyridine-8,11-dione.
94-10. To a degassed solution of 4-chloro-5,6,9,10,12,12a-hexahydro-[1,4]diazepino[1,7-h][1,7]naphthyridine-8,11-dione (66 mg, 0.25 mmol) and 2-fluoro-5-(tributylstannyl)pyridine (120 mg, 0.31 mmol) in dioxane (2 mL) Pd(PPh3)4 (15 mg, 0.012 mmol) was added and the mixture was heated in the microwave at 150° C. for 5 h. The solvent was removed under reduced pressure. The crude product was purified by flash-column chromatography over silicagel (Biotage Isolera Four, eluent: from 2% MeOH in AcOEt to 20% MeOH in AcOEt in 21 min) to yield the title compound as a beige solid (32 mg). UPLC-MS: MS 327.2 (M+H+); UPLC rt 0.58 min.

reactant | 4-chloro-5,6,9,10,12,12a-hexahydro-[1,4]diazepino[1,7-h][1,7]naphthyridine-8,11-dione | 0.25 mmol, 66 mg | ClC1=CC=NC=2C3N(CCC12)C(CNC(C3)=O)=O | C12H12ClN3O2
reactant | 2-fluoro-5-(tributylstannyl)pyridine | 0.31 mmol, 120 mg | FC1=NC=C(C=C1)[Sn](CCCC)(CCCC)CCCC
reactant | dioxane | 0.012 mmol, 2 mL, 15 mg | O1CCOCC1 | C4H8O2
product | 4-(6-fluoropyridin-3-yl)-5,6,9,10,12,12a-hexahydro-[1,4]diazepino[1,7-h][1,7]naphthyridine-8,11-dione | 32 mg | FC1=CC=C(C=N1)C1=CC=NC=2C3N(CCC12)C(CNC(C3)=O)=O | C17H15FN4O2
